US07687492B2
Step A: N-(3-Chloro-4-cyanophenyl)methanesulfonamide
To a stirred solution of 4-amino-2-chlorobenzonitrile (5.02 g, 32.9 mmol) in dichloromethane (80 mL) was added N,N-diisopropylethylamine (17.0 mL, 97.8 mmol) and methanesulfonyl chloride (3.0 mL, 38.8 mmol) at −78° C. The reaction was then allowed to warm to room temperature slowly. After stirring at room temperature for 12 h, the reaction was quenched with 1 N hydrochloric acid. The organic phase was concentrated in vacuo and the residue was purified by flash chromatography (silica gel, 50:50 hexanes/ethyl acetate) to give the desired product.

reactant | 4-amino-2-chlorobenzonitrile | 32.9 mmol, 5.02 g | NC1=CC(=C(C#N)C=C1)Cl | C7H5ClN2
reactant | N,N-diisopropylethylamine | 97.8 mmol, 17.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 38.8 mmol, 3.0 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | N-(3-Chloro-4-cyanophenyl)methanesulfonamide | ClC=1C=C(C=CC1C#N)NS(=O)(=O)C | C8H7ClN2O2S
